US05578627
To a solution of 2.53 g of di-tert-butyl dicarbonate in 190 ml of ethyl acetate are added 38 ml of saturated aqueous sodium hydrogencarbonate solution and 38 ml of water. Thereto is added 3.83 g of 3-(2-amino-3-benzoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride at 20°-25° C., and they are subjected to reaction at the same temperature for one hour. The organic layer is separated from the reaction mixture and the separated organic layer is washed with a saturated saline solution and then dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure to obtain crystals. The crystals obtained are dissolved in 114 ml of methanol and 12 ml of 1N aqueous sodium hydroxide solution is further added, and they are subjected to reaction at 30°-40° C. for one hour. The solvent is removed form the reaction mixture by distillation under reduced pressure, and ethyl acetate and water are added to the residue obtained. After shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure, to obtain 2.98 g of colorless, crystalline 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole having a melting point of 121°-122° C.

reactant | di-tert-butyl dicarbonate | 2.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | 38 ml | C(O)([O-])=O.[Na+]
reactant | 3-(2-amino-3-benzoyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | 3.83 g | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(C2=CC=CC=C2)=O
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | ethyl acetate | 190 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 114 ml | CO | CH4O
solvent | water | 38 ml | O | H2O
product | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
